******************************************************************************* 
*                                                                             * 
* Copyright 2023 IHP PDK Authors                                              *
*                                                                             *
* Licensed under the Apache License, Version 2.0 (the "License");             *
* you may not use this file except in compliance with the License.            *
* You may obtain a copy of the License at                                     *
*                                                                             *
*     https://www.apache.org/licenses/LICENSE-2.0                             *
*                                                                             *
* Unless required by applicable law or agreed to in writing, software         *
* distributed under the License is distributed on an "AS IS" BASIS,           *
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.    *
* See the License for the specific language governing permissions and         *
* limitations under the License.                                              *
*                                                                             *
******************************************************************************* 

.MODEL res_rsil R (DEFW=0.5e-6 RSH=7 TC1=3100e-6 TC2=0.3e-6)
.MODEL res_rhigh R (DEFW=1e-6 RSH=1360 TC1=-2300e-6 TC2=2.1e-6)
.MODEL res_rppd R (DEFW=0.5e-6 RSH=260 TC1=170e-6 TC2=0.4e-6)

**ptap1 (TIE SUB)
.subckt ptap1 1 2 
R1 1 2 R=262.847
.ends ptap1

**ntap1 (TIE WELL)
.subckt ntap1 1 2 
R1 1 2 R=262.847
.ends ntap1

* Parasitic R/C models
* aluminum: prozess tol. res_rpara 
* value is taken from extraction routine
.subckt Rparasitic 1 2 
.param R=0 w=0 l=0 TC1=0.00353 TC2=0
R1 1 2 R=r*res_rpara TC1=TC1 TC2=TC2 
.ends Rparasitic

.subckt rsil 1 3 bn
.param w=0.5e-6 l=0.5e-6 b=0
+kappa=1.85
+ps=0.18e-6
+leff=(b+1)*l+(2/kappa*weff+ps)*b
+res_rzspec=2*rzspec/w
+weff=w+0.01e-6
+rzspec=4.5e-6
R1 1 2 res_rsil L=leff W=weff
R2 2 3 R=res_rzspec TC1=3100e-6 TC2=0.3e-6
.ends rsil

.subckt rhigh 1 3 bn
.param w=0.5e-6 l=0.96e-6 b=0 
+kappa=1.85
+ps=0.18e-6
+leff=(b+1)*l+(2/kappa*weff+ps)*b
+res_rzspec=2*rzspec/w
+weff=w-0.04e-6
+rzspec=80e-6
R1 1 2 res_rhigh L=leff W=weff
R2 2 3 R=res_rzspec TC1=-2300e-6 TC2=2.1e-6
.ends rhigh

.subckt rppd 1 3 bn
.param w=0.5e-6 l=0.5e-6 b=0
+kappa=1.85
+ps=0.18e-6
+leff=(b+1)*l+(2/kappa*weff+ps)*b
+res_rzspec=2*rzspec/w
+weff=w+0.006e-6
+rzspec=35e-6
R1 1 2 res_rppd L=leff W=weff
R2 2 3 R=res_rzspec TC1=-950e-6
.ends rppd
